US04119710
1-(4'-Amino-3'-fluoro-phenyl)-2-tert.butylamino-ethanol,
m.p. of the hydrochloride: 196°-197° C. (decomp.), was prepared from 1-(4'-benzoylamino-3'-fluoro-phenyl)-2-tert.butylamino-ethanol analogous to Example 4.

reactant | hydrochloride | Cl | ClH
reactant | 1-(4'-benzoylamino-3'-fluoro-phenyl)-2-tert.butylamino-ethanol | C(C1=CC=CC=C1)(=O)NC1=C(C=C(C=C1)C(CNC(C)(C)C)O)F | C19H23FN2O2
product | 1-(4'-Amino-3'-fluoro-phenyl)-2-tert.butylamino-ethanol | NC1=C(C=C(C=C1)C(CNC(C)(C)C)O)F | C12H19FN2O
